US05236952
A suspension of 2.6 g of (3,4-dihydroxy-5-nitrobenzoyl)methyl acetate in 20 ml of ethanol and 20 ml of 1N hydrochloric acid is heated to boiling under reflux for 5 hours. The reaction mixture is then evaporated, the residue is distilled with toluene and then recrystallized from ethanol. There is obtained 2,3',4'-trihydroxy-5'-nitroacetophenone of m.p. 208°-210°.

reactant | (3,4-dihydroxy-5-nitrobenzoyl)methyl acetate | 2.6 g | C(C)(=O)OCC(C1=CC(=C(C(=C1)[N+](=O)[O-])O)O)=O | C10H9NO7
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1N, 20 ml | Cl | ClH
product | 2,3',4'-trihydroxy-5'-nitroacetophenone | OCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H7NO6
